US07994164B2
(4-Bromo-2-nitro-phenyl)-((7S,8aS)-hexahydro-pyrrolo[2,1-c][1,4]oxazin-7-yl)-amine
Add BH3.THF (1.0 M in tetrahydrofuran, 0.056 mol, 56 mL) drop wise to a solution of (7S,8aS)-7-(4-bromo-2-nitro-phenylamino)-tetrahydro-pyrrolo[2,1-c][1,4]oxazin-4-one (0.028 mol, 10 g) in tetrahydrofuran (150 mL) at 0 to −5° C. under nitrogen. After complete addition, reflux the reaction mixture for 3 h. Cool the reaction mixture to 0° C., quench with 1 N hydrochloric acid, and then add 1 N aqueous sodium hydroxide solution. Remove tetrahydrofuran under reduced pressure and extract the aqueous layer with dichloromethane. Dry the organic layer over anhydrous sodium sulfate, filter, and concentrate. Dissolve the residue in methanol (160 mL), add 4 N hydrogen chloride in dioxane (160 mL) and heat the reaction mixture for 4 h at 80° C. Cool to room temperature and adjust the pH between 10-12 by adding 4 N aqueous sodium hydroxide solution. Remove the methanol under reduced pressure and extract the aqueous layer with dichloromethane. Dry the organic layer over anhydrous sodium sulfate, filter, and concentrate to give the title compound as a crystalline, yellow solid (8.0 g, 83%). 1H NMR (400 MHz, CDCl3) δ 1.32-1.38 (m, 1H), 2.19-2.22 (m, 1H), 2.34 (dt, 1H), 2.42-2.47 (m, 1H), 2.54-2.58 (m, 1H), 2.92 (d, 1H), 3.07 (d, 1H), 3.34 (t, 1H), 3.61 (dt, 1H), 3.85 (dd, 1H), 3.97 (dd, 1H), 4.01-4.07 (m, 1H), 6.67 (d, 1H), 7.48 (dd, 1H), 8.17 (d, 1H), 8.35 (d, 1H).

reactant | BH3.THF | 0.056 mol, 1.0 M, 56 mL | B.C1CCOC1
reactant | (7S,8aS)-7-(4-bromo-2-nitro-phenylamino)-tetrahydro-pyrrolo[2,1-c][1,4]oxazin-4-one | 0.028 mol, 10 g | BrC1=CC(=C(C=C1)N[C@H]1C[C@H]2COCC(N2C1)=O)[N+](=O)[O-] | C13H14BrN3O4
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | (4-Bromo-2-nitro-phenyl)-((7S,8aS)-hexahydro-pyrrolo[2,1-c][1,4]oxazin-7-yl)-amine | BrC1=CC(=C(C=C1)N[C@H]1C[C@H]2COCCN2C1)[N+](=O)[O-] | C13H16BrN3O3
